US07786129B2
3-{4-[4-(2,4-Dichlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(2,4-dichloro-phenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(2,4-dichloro-phenyl)-piperazine | ClC1=C(C=CC(=C1)Cl)N1CCNCC1 | C10H12Cl2N2
product | 3-{4-[4-(2,4-Dichlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)N1CCN(CC1)CCCCC1(C(NC2=CC=CC=C12)=O)CC | InChI=1S/C24H29Cl2N3O.ClH/c1-2-24(19-7-3-4-8-21(19)27-23(24)30)11-5-6-12-28-13-15-29(16-14-28)22-10-9-18(25)17-20(22)26;/h3-4,7-10,17H,2,5-6,11-16H2,1H3,(H,27,30);1H
